US07115644B2
A mixture of the 4-fluoro-3-nitroaniline (5.00 g, 32.03 mmol), phenylboronic acid (7.81 g, 64.05 mmol), copper(II) acetate (5.82 g, 32.03 mmol) and 4 Å molecular sieves (5.00 g) in dichloromethane (200.0 mL) and triethylamine (22.3 mL, 160 mmol) was placed in a round bottomed flask. The resulting suspension was stirred at room temperature under a dry ambient atmosphere for 48 h. The mixture was filtered through diatomaceous earth and the solvent was removed via rotary evaporation. The resulting residue was re-dissolved in EtOAc, adsorbed on silica gel and flash chromatographed (15% EtOAc/hexanes) to give 4-fluoro-3-nitro-N-phenylaniline as an orange solid (5.24 g, 70.5 % yield). M−, 231.

reactant | 4-fluoro-3-nitroaniline | 32.03 mmol, 5.00 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | phenylboronic acid | 64.05 mmol, 7.81 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 160 mmol, 22.3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200.0 mL | ClCCl | CH2Cl2
catalyst | copper(II) acetate | 32.03 mmol, 5.82 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-fluoro-3-nitro-N-phenylaniline | 5.24 g, 70.5 % yield | FC1=C(C=C(NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C12H9FN2O2
